US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(2-naphthyl)-imidazole dihydrochloride
Analogously to Example 2, 0.3 g of Raney nickel is added to a mixture of 1.0 g (2.13 mmol) of 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(2-naphthyl)-imidazole dihydrochloride in 120 ml of methanol/water (1:1), and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then filtered, the filtrate is acidified to pH 3 with 3N methanolic hydrochloric acid, and concentration is carried out by evaporation in vacuo. Recrystallization of the residue from ethanol with the addition of a small amount of methanol yields the title compound, m.p. >280° C., 1H-NMR (DMSO/D2O): δ=8.31 (d, 1H); 8.18 (s, 1H); 8.05 (s, 1H); 7.92-8.03 (m, 3H); 7.79-7.86 (m, 2H); 7.52-7.69 (m, 3H); 3.35 (s, 4H).

reactant | 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(2-naphthyl)-imidazole dihydrochloride | 2.13 mmol, 1.0 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC2=CC=CC=C2C=C1)N
catalyst | Raney nickel | 0.3 g | [Ni] | Ni
solvent | methanol water | 120 ml | CO.O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(2-naphthyl)-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC2=CC=CC=C2C=C1)N | InChI=1S/C23H20N6.2ClH/c24-22(25)19-7-3-6-18-17(19)10-11-20(18)28-29-13-21(27-23(29)26)16-9-8-14-4-1-2-5-15(14)12-16;;/h1-9,12-13H,10-11H2,(H3,24,25)(H2,26,27);2*1H
